US04609404
A dispersion of 22.3 parts of 1-aminoanthraquinone in 200 ml of nitrobenzene was brought to 100° C. and additioned with 9.22 parts of cyanuryl chloride and successively brought to 190° C. for 2 hours. The reaction mixture was filtered at a temperature of 150° C. and the cake was washed several times with methanol and then with n-heptane and was dried in an oven at a temperature of 110° C. About 23 parts of 2-chloro-4,6-bis-(1-aminoanthraquinonyl)-s-triazine were obtained.

reactant | 1-aminoanthraquinone | NC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H9NO2
reactant | cyanuryl chloride | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
solvent | nitrobenzene | 200 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 2-chloro-4,6-bis-(1-aminoanthraquinonyl)-s-triazine | ClC1=NC(=NC(=N1)C1=C(C=2C(C3=CC=CC=C3C(C2C=C1)=O)=O)N)C1=C(C=2C(C3=CC=CC=C3C(C2C=C1)=O)=O)N | C31H16ClN5O4
